US07067540B2
3-bromo-4-[2-(4-fluorophenyl)ethyl]-6-methyl-1-(pyridin-3-ylmethyl)pyridin-2(1H)-one
A suspension of 3-bromo-4-[(4-fluorophenyl)ethynyl]-6-methyl-1-(pyridin-3-ylmethyl)pyridin-2(1H)-one (0.430 g, 1.01 mmol) in Ethyl acetate (5 mL) and EtOH (5 mL), containing PtO2 (0.015 g) was stirred in an atmosphere of hydrogen (15 psi) in a Fischer-Porter bottle for 2 hours. The reaction mixture was filtered and the filtrate was concentrated to reduce volume. The material was purified by flash column chromatography (ethyl acetate). The appropriate fractions were combined and concentrated under reduced pressure to afford the desired product (0.0943 g, 22%) as a sticky semisolid after drying. 1H-NMR (CD3OD, 400 MHz) δ 8.46 (d, 2H, J=26.4 Hz), 7.60 (d, 1H, J=8.0 Hz), 7.41 (dd, 1H, J=4.8 Hz, 4.8 Hz), 7.21 (m, 2H), 6.97 (t, 2H, J=8.8 Hz), 6.24 (s, 1H), 5.43 (s, 2H), 2.93 (m, 4H), 2.31 (s, 3H); ES-HRMS m/z 401.0645/403.0603 (M+H calculated for C20H19N2OFBr requires 401.0659/403.0641).

reactant | 3-bromo-4-[(4-fluorophenyl)ethynyl]-6-methyl-1-(pyridin-3-ylmethyl)pyridin-2(1H)-one | 1.01 mmol, 0.430 g | BrC=1C(N(C(=CC1C#CC1=CC=C(C=C1)F)C)CC=1C=NC=CC1)=O | C20H14BrFN2O
reactant | hydrogen | [H][H] | H2
solvent | Ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | PtO2 | 0.015 g | O=[Pt]=O
product | 3-bromo-4-[2-(4-fluorophenyl)ethyl]-6-methyl-1-(pyridin-3-ylmethyl)pyridin-2(1H)-one | 0.0943 g, 22% | BrC=1C(N(C(=CC1CCC1=CC=C(C=C1)F)C)CC=1C=NC=CC1)=O | C20H18BrFN2O
